US05192785
Sulfamic acid 3-(acetylamino)phenyl ester
By the same method described for Example 53, the title compound was prepared from m-acetamidophenol (12.10 g, 0.08 m), reacting with the sulfamoyl chloride generated from water and chlorosulfonyl isocyanate. The crude product contained desired product and starting material. The product was isolated by chromatography on 100 g silica gel, eluted first with 7:3 methylene chloride/acetonitrile and then increasing the proportion of acetonitrile in the eluting solvent. The main fraction was evaporated and triturated with isopropyl alcohol/isopropyl ether to give 4 g of white solid, recrystallized from acetonitrile/isopropyl ether, and dried in vacuum at 60° C. overnight to give 3.73 g of solid, mp 148°-149° C.

reactant | m-acetamidophenol | 12.10 g | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
solvent | water | O | H2O
product | Sulfamic acid 3-(acetylamino)phenyl ester | C(C)(=O)NC=1C=C(C=CC1)OS(N)(=O)=O | C8H10N2O4S
